US04684640
Sodium 7-oxo-3-(3-trifluoromethylphenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 602 mg of 4-nitrobenzyl 7-oxo-3-(3-trifluoromethylphenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 108 mg sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 25° for 60 minutes.

reactant | 4-nitrobenzyl 7-oxo-3-(3-trifluoromethylphenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 602 mg | O=C1CC2SC(=C(N12)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])OC1=CC(=CC=C1)C(F)(F)F | C20H13F3N2O6S
reactant | sodium bicarbonate | 108 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 7-oxo-3-(3-trifluoromethylphenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | O=C1CC2SC(=C(N12)C(=O)[O-])OC1=CC(=CC=C1)C(F)(F)F.[Na+] | InChI=1S/C13H8F3NO4S.Na/c14-13(15,16)6-2-1-3-7(4-6)21-12-10(11(19)20)17-8(18)5-9(17)22-12;/h1-4,9H,5H2,(H,19,20);/q;+1/p-1
